Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
CC(C)(C)OC(=O)[NH:1][CH2:2][CH2:3][c:4]1[cH:5][cH:6][c:7]([O:8][c:9]2[n:10][cH:11][cH:12][cH:13][c:14]2[C:15]([NH2:16])=[O:17])[cH:18][cH:19]1>>[NH2:1][CH2:2][CH2:3][c:4]1[cH:5][cH:6][c:7]([O:8][c:9]2[n:10][cH:11][cH:12][cH:13][c:14]2[C:15]([NH2:16])=[O:17])[cH:18][cH:19]1,[CH3:202][C:203]([CH3:204])([CH3:205])[O:206][C:101](=[O:201])[NH:1][CH2:2][CH2:3][c:4]1[cH:5][cH:6][c:7]([O:8][c:9]2[n:10][cH:11][cH:12][cH:13][c:14]2[C:15]([NH2:16])=[O:17])[cH:18][cH:19]1.[H+:301]>>[NH2:1][CH2:2][CH2:3][c:4]1[cH:5][cH:6][c:7]([O:8][c:9]2[n:10][cH:11][cH:12][cH:13][c:14]2[C:15]([NH2:16])=[O:17])[cH:18][cH:19]1,Boc_deprotection,"[(201, 301), ([203, 206], [206, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1), ([202.1, 202], [202, 203])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(C)(C)OC(=O)[N:1]1[CH2:2][CH2:3][N:4]([c:5]2[n:6][cH:7][c:8]([C:9]([F:10])([F:11])[F:12])[cH:13][c:14]2[F:15])[CH2:16][CH2:17]1>>[NH:1]1[CH2:2][CH2:3][N:4]([c:5]2[n:6][cH:7][c:8]([C:9]([F:10])([F:11])[F:12])[cH:13][c:14]2[F:15])[CH2:16][CH2:17]1,[CH3:202][C:203]([CH3:204])([CH3:205])[O:206][C:101](=[O:201])[N:1]1[CH2:2][CH2:3][N:4]([c:5]2[n:6][cH:7][c:8]([C:9]([F:10])([F:11])[F:12])[cH:13][c:14]2[F:15])[CH2:16][CH2:17]1.[H+:301]>>[NH:1]1[CH2:2][CH2:3][N:4]([c:5]2[n:6][cH:7][c:8]([C:9]([F:10])([F:11])[F:12])[cH:13][c:14]2[F:15])[CH2:16][CH2:17]1,Boc_deprotection,"[(201, 301), ([203, 206], [206, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1), ([202.1, 202], [202, 203])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[CH2:1][CH2:2][C:3]#[N:4].[SH:5][c:6]1[cH:12][cH:11][c:9]([Cl:10])[cH:8][cH:7]1>>[CH2:1]([CH2:2][C:3]#[N:4])[S:5][c:6]1[cH:7][cH:8][c:9]([Cl:10])[cH:11][cH:12]1,[SH:5][c:6]1[cH:7][cH:8][c:9]([Cl:10])[cH:11][cH:12]1.[Cl:101][CH2:1][CH2:2][C:3]#[N:4].[H-:301].[Na+]>>[CH2:1]([CH2:2][C:3]#[N:4])[S:5][c:6]1[cH:7][cH:8][c:9]([Cl:10])[cH:11][cH:12]1,SN2_alcohol(thiol),"[(301, 5.1), ([5.1, 5], 5), (5, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1](=[O:2])[c:3]1[cH:4][s:5][c:6]([Br:7])[n:8]1.[CH3:9][O:10][c:11]1[n:12][c:13]([NH:14][CH2:15][CH2:16][N:17]([C:18](=[O:19])[O:20][C:21]([CH3:22])([CH3:23])[CH3:24])[CH:25]([CH3:26])[CH3:27])[n:28][c:29]([O:30][CH3:31])[c:32]1[NH2:33]>>[C:1](=[O:2])([c:3]1[cH:4][s:5][c:6]([Br:7])[n:8]1)[NH:33][c:32]1[c:11]([O:10][CH3:9])[n:12][c:13]([NH:14][CH2:15][CH2:16][N:17]([C:18](=[O:19])[O:20][C:21]([CH3:22])([CH3:23])[CH3:24])[CH:25]([CH3:26])[CH3:27])[n:28][c:29]1[O:30][CH3:31],[CH3:9][O:10][c:11]1[n:12][c:13]([NH:14][CH2:15][CH2:16][N:17]([C:18](=[O:19])[O:20][C:21]([CH3:22])([CH3:23])[CH3:24])[CH:25]([CH3:26])[CH3:27])[n:28][c:29]([O:30][CH3:31])[c:32]1[NH2:33].[OH:101][C:1](=[O:2])[c:3]1[cH:4][s:5][c:6]([Br:7])[n:8]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([c:3]1[cH:4][s:5][c:6]([Br:7])[n:8]1)[NH:33][c:32]1[c:11]([O:10][CH3:9])[n:12][c:13]([NH:14][CH2:15][CH2:16][N:17]([C:18](=[O:19])[O:20][C:21]([CH3:22])([CH3:23])[CH3:24])[CH:25]([CH3:26])[CH3:27])[n:28][c:29]1[O:30][CH3:31],DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (33, 1), ([1, 2], 2), (303, 33.1), ([33.1, 33], 33), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([CH3:2])=[O:3].[cH:4]1[cH:32][cH:31][c:7](-[c:8]2[n:9][cH:10][c:11]3[c:12]([n:13]2)[N:14]([c:15]2[cH:16][cH:17][n:18][c:19]([NH:20][CH:21]4[CH2:22][CH2:23][NH:24][CH2:25][CH2:26]4)[n:27]2)[CH2:28][CH2:29][O:30]3)[cH:6][cH:5]1>>[C:1]([CH3:2])(=[O:3])[N:24]1[CH2:23][CH2:22][CH:21]([NH:20][c:19]2[n:18][cH:17][cH:16][c:15]([N:14]3[c:12]4[c:11]([cH:10][n:9][c:8](-[c:7]5[cH:6][cH:5][cH:4][cH:32][cH:31]5)[n:13]4)[O:30][CH2:29][CH2:28]3)[n:27]2)[CH2:26][CH2:25]1,[cH:4]1[cH:5][cH:6][c:7](-[c:8]2[n:9][cH:10][c:11]3[c:12]([n:13]2)[N:14]([c:15]2[cH:16][cH:17][n:18][c:19]([NH:20][CH:21]4[CH2:22][CH2:23][NH:24][CH2:25][CH2:26]4)[n:27]2)[CH2:28][CH2:29][O:30]3)[cH:31][cH:32]1.[OH:101][C:1]([CH3:2])=[O:3].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([CH3:2])(=[O:3])[N:24]1[CH2:23][CH2:22][CH:21]([NH:20][c:19]2[n:18][cH:17][cH:16][c:15]([N:14]3[c:12]4[c:11]([cH:10][n:9][c:8](-[c:7]5[cH:6][cH:5][cH:4][cH:32][cH:31]5)[n:13]4)[O:30][CH2:29][CH2:28]3)[n:27]2)[CH2:26][CH2:25]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (24, 1), ([1, 3], 3), (303, 24.1), ([24.1, 24], 24), (3, [3, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
